US09416115B2
3-((3-methyloxetan-3-yl)methoxy)-5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazole
5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-ol (100 mg, 0.34 mmol), 3-bromomethyl-3-methyloxetane (150 mg, 0.91 mmol) and cesium carbonate (300 mg) were combined in 5 mL DMF and stirred at ambient temperature until HPLC showed complete disappearance of benzisoxazole starting material. The reaction mixture was diluted with 60 mL ethyl acetate, washed with water and brine and evaporated under vacuum. Flash chromatographic purification on 12 g silica gel with 0-60% ethyl acetate in hexane gave the title compound (80 mg, 0.21 mmol).

reactant | 5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazol-3-ol | 0.34 mmol, 100 mg | FC(OC1=CC=C(C=C1)C=1C=CC2=C(C(=NO2)O)C1)(F)F | C14H8F3NO3
reactant | 3-bromomethyl-3-methyloxetane | 0.91 mmol, 150 mg | BrCC1(COC1)C | C5H9BrO
reactant | cesium carbonate | 300 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzisoxazole | O1N=CC2=C1C=CC=C2 | C7H5NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 3-((3-methyloxetan-3-yl)methoxy)-5-(4-(trifluoromethoxy)phenyl)benzo[d]isoxazole | 0.21 mmol, 80 mg | CC1(COC1)COC1=NOC2=C1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F | C19H16F3NO4
